US09428509B2
2-Methyl-1-(4-nitro-1H-pyrazol-1-yl)propan-2-ol
To a solution of 4-nitro-1H-pyrazole (1 equiv) in acetonitrile (1 M) was added 1,8-diazabicycloundec-7ene (2 equiv) and 1,2-epoxy-2-methylpropane (3.2 equiv). The reaction mixture was stirred at 60° C. for 20 h. The solvent was removed under reduced pressure and the residue was dissolved in ethyl acetate. The organic solution was washed with HCl (1 N), water and brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to give the title compound which was directly used in the next step without further purification (73% yield). 1H NMR (400 MHz, CHLOROFORM-d1) δ ppm 8.26 (s, 1H), 8.09 (s, 1H), 4.13 (s, 2H), 2.64 (s, 1H) 1.24 (s, 6H). MS (ESI) m/z 186.2 [M+H]+.

reactant | 4-nitro-1H-pyrazole | 1 equiv | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | 1,8-diazabicycloundec-7ene | 2 equiv | N1(CCCCCC=NCCC1)C1CCCCCCCCCC1 | C20H38N2
reactant | 1,2-epoxy-2-methylpropane | 3.2 equiv | O1CC1(C)C | C4H8O
solvent | acetonitrile | 1 M | C(C)#N | C2H3N
product | 2-Methyl-1-(4-nitro-1H-pyrazol-1-yl)propan-2-ol | 73% yield | CC(CN1N=CC(=C1)[N+](=O)[O-])(C)O | C7H11N3O3
